US04204991
29.4 g of t-butoxycarbonylisoleucylhistidine methyl ester is dissolved in 150 ml of methanol. To this solution is added 308 ml of 1 N lithium hydroxide. The reaction mixture is stirred for three hours, then neutralized with 1 N hydrochloride acid to pH 3. The solvent is removed by vacuum and the residue is dissolved in N,N-dimethylformamide. The solution is filtered and the solvent removed by vacuum. The residue is dissolved in methanol/2-propanol. The alcohol solution is added to 2 liters of cold rapidly stirring ethyl ether. The white precipitate is filtered and dried in vacuo to afford t-butoxycarbonylisoleucylhistidine hydrochloride.

reactant | t-butoxycarbonylisoleucylhistidine methyl ester | 29.4 g | COC([C@@H](NC([C@@H](NC(=O)OC(C)(C)C)[C@@H](C)CC)=O)CC1=CNC=N1)=O | C18H30N4O5
reactant | lithium hydroxide | 1 N, 308 ml | [OH-].[Li+]
reactant | hydrochloride | 1 N | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
product | t-butoxycarbonylisoleucylhistidine hydrochloride | Cl.C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CNC=N1)C(=O)O | InChI=1S/C17H28N4O5.ClH/c1-6-10(2)13(21-16(25)26-17(3,4)5)14(22)20-12(15(23)24)7-11-8-18-9-19-11;/h8-10,12-13H,6-7H2,1-5H3,(H,18,19)(H,20,22)(H,21,25)(H,23,24);1H/t10-,12-,13-;/m0./s1
